US07358364B2
Step 7: Preparation of 4-(4′-Dibenzofuran-4-ylbiphen-4-yl)-4-oxo-2-(3-trifluoromethybenzyl)butyric acid.
2 N Sodium hydroxide solution (1 mL) was added dropwise to a stirred solution of methyl-4-(4′-dibenzofuran-4-ylbiphen-4-yl)-4-oxo-2-(3-trifluoromethy-benzyl)butyrate (220 mg) in tetrahydrofuran (5 mL) and methanol (2 mL). The clear reaction mixture was stirred at room temperature until the reaction was complete (TLC control), and then diluted with water (5 mL), and acidified to pH 3 with 2N hydrochloric acid. The reaction mixture was extracted with ethyl acetate (2×20 mL). The combined organic extracts were washed with water, sat'd aq NaCl, dried over anhyd MgSO4, filtered and concentrated in vacuo. Purification by flash column chromatography (5-10% methanol in methylene chloride) afforded the title compound has a white solid (190 mg). Rf: 0.60 (10% methanol in dichloromethane); 1H-NMR (CDCl3, 300 MHz): δ 8.06 (4H, m, Ar—H), 7.96 (2H, m, Ar—H), 7.77 (4H, t, J=9 Hz, Ar—H), 7.62 (2H, t, J=9 Hz, Ar—H), 7.47 (6H, m, Ar—H), 7.37 (1H, t, J=8 Hz, Ar—H), 3.46 (2H, m), 3.26 (1H, dd, J=16, 7 Hz), 3.12 (1H, m), 3.02 (1H, dd, J=16, 8 Hz); ESI-LCMS e/z calcd for C36H25F3O4:578.583, found 579 (M+H)+, 601 (M+Na)+.

reactant | Sodium hydroxide | 2 N, 1 mL | [OH-].[Na+]
reactant | methyl-4-(4′-dibenzofuran-4-ylbiphen-4-yl)-4-oxo-2-(3-trifluoromethy-benzyl)butyrate | 220 mg | COC(C(CC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)CC1=CC(=CC=C1)C(F)(F)F)=O | C37H27F3O4
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 4-(4′-Dibenzofuran-4-ylbiphen-4-yl)-4-oxo-2-(3-trifluoromethybenzyl)butyric acid | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC=C(C2=CC=C(C=C2)C(CC(C(=O)O)CC2=CC(=CC=C2)C(F)(F)F)=O)C=C3 | C36H25F3O4
